US09388153B2
Methyl iodide (17 mg, 0.122 mmol) and sodium hydride (60% dispersion of mineral oil, 1.1 mg, 0.045 mmol) were added to a solution of isopropyl 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)amino)phenoxy)acetate (17 mg, 0.041 mmol) and dimethylformamide (2 mL) in a 50 mL round bottom flask at room temperature. The mixture was then heated to 50° C. and allowed to stir overnight. The solution was quenched with saturated ammonium chloride (25 mL) and extracted with ethyl acetate (100 mL). The organic layer was washed with brine (1×100 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The resulting crude residue was purified by preparative TLC (1000 mm thickness, 30% ethyl acetate/hexanes) to afford 12 mg (68%) of isopropyl 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)(methyl)amino)phenoxy)acetate.

reactant | Methyl iodide | 0.122 mmol, 17 mg | CI | CH3I
reactant | sodium hydride | 0.045 mmol, 1.1 mg | [H-].[Na+]
reactant | isopropyl 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)amino)phenoxy)acetate | 0.041 mmol, 17 mg | FC=1C=C(C=CC1)C1=CC=C2CCC(C2=C1)NC=1C=C(OCC(=O)OC(C)C)C=CC1 | C26H26FNO3
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | isopropyl 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)(methyl)amino)phenoxy)acetate | 12 mg, 68% | FC=1C=C(C=CC1)C1=CC=C2CCC(C2=C1)N(C=1C=C(OCC(=O)OC(C)C)C=CC1)C | C27H28FNO3
